US06930185B2
The tert-butyl 6-(hydroxymethyl)-2-naphthylcarbamate (1.00 g, 3.66 mmol) obtained in the above 2) was dissolved in dichloromethane (18 ml), manganese dioxide (1.59 g, 18.3 mmol) was added thereto, and the mixture was stirred at room temperature for 4 hours. The insolubles were filtered, the filtrate was concentrated under reduced pressure., and crystallized from diisopropyl ether to obtain tert-butyl 6-formyl-2-naphthylcarbamate (889 mg) as a white powder.

reactant | tert-butyl 6-(hydroxymethyl)-2-naphthylcarbamate | 3.66 mmol, 1.00 g | OCC=1C=C2C=CC(=CC2=CC1)NC(OC(C)(C)C)=O | C16H19NO3
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 18.3 mmol, 1.59 g | [O-2].[O-2].[Mn+4]
product | tert-butyl 6-formyl-2-naphthylcarbamate | 889 mg | C(=O)C=1C=C2C=CC(=CC2=CC1)NC(OC(C)(C)C)=O | C16H17NO3
